US05932582
To a 100 mL round bottomed flask with a stirring bar and an argon inlet was added 2-(4-amino-3-methylphenoxy)ethylamine (0.997 g, 6.00 mmol), chloroform and di-tert-butyldicarbonate (1.31 g, 6.00 mmol). This solution was stirred at ambient temperature 2 h. The solvent was removed in vacuo and the residue was chromatographed on 75 g of silica gel using EtoAc-hexane (2:3) as eluant. There was obtained 1.56 g (98%) of 1-(1,1-dimethylethoxycarbonylamino)-2-(4-amino-3-methylphenoxy)ethane as a white crystalline solid. 1H NMR (CDCl3): d 1.42 (s, 9H), 2.19 (s, 3H), 3.35 (m, 2H), 3.48 (m, 21H), 3.92 (m, 2H), 4.98 (br s, 1H), 6.60 (s, 2H), 6.63 (s, 1H).

reactant | 2-(4-amino-3-methylphenoxy)ethylamine | 6.00 mmol, 0.997 g | NC1=C(C=C(OCCN)C=C1)C | C9H14N2O
reactant | di-tert-butyldicarbonate | 6.00 mmol, 1.31 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(1,1-dimethylethoxycarbonylamino)-2-(4-amino-3-methylphenoxy)ethane | 1.56 g, 98% | CC(C)(OC(=O)NCCOC1=CC(=C(C=C1)N)C)C | C14H22N2O3
